US07208524B2
N-Cyanomethyl-2,2,2-trifluoroacetamide
Aminoacetonitrile hydrogen sulfate (50 g) and 77 mL of pyridine were suspended in 300 mL of dichloromethane, and 80 mL of trifluoroacetic anhydride was added to the stirred mixture under ice-cooling. After the mixture was stirred at room temperature for 29 hours, the insoluble material was removed by filtration, and washed with ethyl acetate. After the filtrate was concentrated under reduced pressure, to the residue was added water. The mixture was extracted with ethyl acetate, and the organic layer was washed with diluted hydrochloric acid and water. After the extract was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure to give 66 g of N-cyanomethyl-.2,2,2-trifluoroacetamide.

reactant | Aminoacetonitrile hydrogen sulfate | 50 g | S(=O)(=O)(O)O.NCC#N
reactant | pyridine | 77 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 80 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,2,2-trifluoroacetamide | FC(C(=O)N)(F)F | C2H2F3NO
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-Cyanomethyl-2,2,2-trifluoroacetamide | C(#N)CNC(C(F)(F)F)=O | C4H3F3N2O
